US06589978B2
b) (2RS,5SR)-5-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-2-methyl-2H-tetrazole
To a stirred solution of (2RS,5SR)-5-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl) -pyrrolidin-2-yl]-2H-tetrazole (0.72 g, 1.86 mmol) in acetone (30 ml) was added at room temperature potassium carbonate (0.51 g, 3.72 mmol) and methyl iodide (0.23 ml, 3.72 mmol) and the reaction mixture was heated under reflux conditions for 3 h. Aqueous work-up, column chromatography on silica gel (ethyl acetate/hexane 2:3) and crystallization from ethyl acetate/hexane yielded the title compound (0.44 g, 59 %) as a white solid, m.p. 150° C. and MS: m/e=402.4 (M+H+). As second product of this reaction (2RS,5SR)-5-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-1-methyl-1H-tetrazole (0.26 g, yield 35%) was obtained as a white solid, m.p. 186° C. and MS: m/e=402.4 (M+H+).

reactant | (2RS,5SR)-5-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl) -pyrrolidin-2-yl]-2H-tetrazole | 1.86 mmol, 0.72 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C=1N=NNN1 | C18H18FN5O2S
reactant | potassium carbonate | 3.72 mmol, 0.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 3.72 mmol, 0.23 ml | CI | CH3I
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | (2RS,5SR)-5-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-2-methyl-2H-tetrazole | 0.44 g, 59 % | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C=1N=NN(N1)C | C19H20FN5O2S
